US07071201B2
Example 100-1: Synthesis of 1-(4-fluorophenethyl)-4-(3-bromophenyl)aminopiperidine
Under ice cooling, a 1 M solution (69 ml) of a borane/tetrahydrofuran complex in tetrahydrofuran was added dropwise into a solution of 1-[1-(4-fluorophenethyl)-piperidin-4-yl]-2,3-dioxo-6-bromoindoline (7.4 g) in tetrahydrofuran (150 ml) followed by stirring at room temperature overnight and heating under reflux for 3 hr. Into the reaction solution was carefully added dropwise a saturated aqueous solution of sodium bicarbonate. Then ethyl acetate was added to the resultant mixture and the organic layer was separated. The organic layer was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was then diluted with pyridine (50 ml) and stirred at room temperature for 4 hr. Next, a saturated aqueous solution of sodium bicarbonate and ethyl acetate were added thereto and the layers were separated. The organic layer was washed with brine and dried over anhydrous magnesium sulfate. The residue was purified by silica gel column chromatography (hexane/ethyl acetate system) to give the title compound (3.9 g) as a yellow oil (yield: 57%).

reactant | 1-[1-(4-fluorophenethyl)-piperidin-4-yl]-2,3-dioxo-6-bromoindoline | 7.4 g | FC1=CC=C(CCN2CCC(CC2)N2C(C(C3=CC=C(C=C23)Br)=O)=O)C=C1 | C21H20BrFN2O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 1-(4-fluorophenethyl)-4-(3-bromophenyl)aminopiperidine | 3.9 g, yield: 57% | FC1=CC=C(CCN2CCC(CC2)NC2=CC(=CC=C2)Br)C=C1 | C19H22BrFN2
